US06642318B1
5,5-Dimethyl-3-piperidinyl-cyclohex-2-en-1-one.
Piperidine (7.0 mL; 0.0713 mol) and a catalytic quantity of p-toluenesulfonic acid monohydrate was added to a solution of 5,5-dimethylcyclohexane-1,3-dione (110.0 g; 0.0713 mol) in benzene (100 mL) and the resultant solution was heated at reflux. After 3 hours further piperidine (0.71 mL; 7.13 mmol) was added and the solution was allowed to reflux for a further 16 hours. The reaction mixture was cooled to room temperature and washed with 10% NaHCO3 solution (20 mL), dried over anhydrous sodium sulfate and the solvent evaporated (in vacuo) to leave an orange crystalline solid. (14.23 g, 96%). 1H-nmr (CDCl3) d: 5.3, (s 1H, H-2), 3.4-3.2 (m, 4H, H-2′, H-6′), 2.2 (s, 2H, H-6), 2.1 (s, 2H, H-4), 1.75-1.4 (m, 6H, H-3′, H-4′, H-5′), 1.00 (s, 6H, 2×CH3).

reactant | Piperidine | 0.0713 mol, 7.0 mL | N1CCCCC1 | C5H11N
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 5,5-dimethylcyclohexane-1,3-dione | 0.0713 mol, 110.0 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | piperidine | 7.13 mmol, 0.71 mL | N1CCCCC1 | C5H11N
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 5,5-Dimethyl-3-piperidinyl-cyclohex-2-en-1-one | CC1(CC(=CC(C1)=O)N1CCCCC1)C | C13H21NO
